US06288062B1
4-(4-Fluorophenyl)-2-methyl-5-(4-pyridyl)oxazole
To a solution of 4-fluorophenyl-2-(4-pyridyl)acetophenone [See PCT/US93/00674, Adams et al., published as WO93/14081](0.167 g, 0.76 mmol) in CH2Cl2 (5 mL) was added bromine (7.8 mL, 0.78 mmol; 0.1M soln in CH2Cl2). After stirring at room temperature for 30 min, the solvent was removed in vacuo and the solid was taken up in glacial acetic acid (10 mL). Sodium acetate (0.192 g, 2.34 mmol) and ammonium acetate (0.301 g, 3.9 mmol) were added and the reaction mixture was heated at reflux for 19 h. After cooling, the mixture was poured into H2O, neutralized with conc. NH4OH, then extracted exhaustively with CH2Cl2. The combined organic layers were washed with sat'd NaCl and dried over MgSO4. Evaporation of solvent provided a yellow solid which was purified by flash chromatography, eluting with 100% CHCl3. The title compound was obtained as a yellow waxy solid (0.067 g): ESMS (m/z): 255 (M++H).

reactant | 4-fluorophenyl-2-(4-pyridyl)acetophenone | FC1=CC=C(C=C1)C(C(=O)C1=CC=CC=C1)C1=CC=NC=C1 | C19H14FNO
reactant | bromine | 0.78 mmol, 0.1M, 7.8 mL | BrBr | Br2
reactant | Sodium acetate | 2.34 mmol, 0.192 g | C(C)(=O)[O-].[Na+]
reactant | ammonium acetate | 3.9 mmol, 0.301 g | C(C)(=O)[O-].[NH4+]
reactant | NH4OH | [NH4+].[OH-]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 4-(4-Fluorophenyl)-2-methyl-5-(4-pyridyl)oxazole | FC1=CC=C(C=C1)C=1N=C(OC1C1=CC=NC=C1)C | C15H11FN2O
